US05470862
A mixture of 5-(2-bromoacetyl)pyrazole-3-carboxylic acid ethyl ester (6.2 g), thiourea (1.8 g), and ethanol (100 ml) was stirred at 60° C. for 30 minutes and concentrated. The residue was dissolved in 100 ml of 1N HCl solution, and washed with ethyl ether (2×100 ml). The aqueous solution was neutralized with NaHCO3. The resulting precipitates were collected through a filtration to afford 4.05 g of 5-(2-aminothiazol-4-yl)pyrazole-3-carboxylic acid ethyl ester as brown solids, mp 205°-207° C. NMR: 1.40 (t, 3H), 4.39 (q, 2H), 5.8 (bs, 2H), 6.85 (s, 1H), 7.03 (s, 1H).

reactant | 5-(2-bromoacetyl)pyrazole-3-carboxylic acid ethyl ester | 6.2 g | C(C)OC(=O)C1=NNC(=C1)C(CBr)=O | C8H9BrN2O3
reactant | thiourea | 1.8 g | NC(=S)N | CH4N2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(2-aminothiazol-4-yl)pyrazole-3-carboxylic acid ethyl ester | 4.05 g | C(C)OC(=O)C1=NNC(=C1)C=1N=C(SC1)N | C9H10N4O2S
